US04125729
[p-(p-Cyanophenoxy)phenyl]acetic acid
A mixture of 17.4 g of p-fluorobenzonitrile 31.0 g of ethyl p-hydroxyphenylacetate, 23.8 g of potassium carbonate and 175 ml of N,N-dimethylacetamide is heated at 158° C for 18 hours. The mixture is cooled and poured into 300 ml of cold sodium bicarbonate solution. The mixture is extracted with ether and the ether extracts washed with two 200 ml portions of 2N NaOH. The aqueous solutions are saturated with salt and extracted with ether. The alkaline aqueous layer is acidified with cold hydrochloric acid to give a solid which is filtered and washed with water to give tan crystals. Recrystallization by dissolving in 300 ml of methanol, adding 200 of water and chilling gives the product as yellow needles, mp 125°-127° C.

reactant | p-fluorobenzonitrile | 17.4 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | ethyl p-hydroxyphenylacetate | OC1=CC=C(C=C1)CC(=O)OCC | C10H12O3
reactant | potassium carbonate | 23.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium bicarbonate | 300 ml | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylacetamide | 175 ml | CN(C(C)=O)C | C4H9NO
product | [p-(p-Cyanophenoxy)phenyl]acetic acid | C(#N)C1=CC=C(OC2=CC=C(C=C2)CC(=O)O)C=C1 | C15H11NO3
